US07678815B2
A suspension of cyano-(3-methoxy-propionylamino)-acetic acid ethyl ester (0.95 g, 4.44 mmol) in toluene (11.00 ml) was flushed with argon. 2,4-bis(4-Methoxyphenyl)-1,3,2,4-dithiadiphosphetane 2,4-disulfide (Lawesson's reagent) (0.90 g, 2.22 mmol) was added at once and the mixture was warmed at 110° C. for 2 h. Toluene was evaporated and the residue purified by flash chromatography (heptane/ethyl acetate) to yield 5-amino-2-(2-methoxy-ethyl)-thiazole-4-carboxylic acid ethyl ester (0.42 g, 40%), MS (ISP): m/e=231.1 (M+H+).

reactant | cyano-(3-methoxy-propionylamino)-acetic acid ethyl ester | 4.44 mmol, 0.95 g | C(C)OC(C(NC(CCOC)=O)C#N)=O | C9H14N2O4
reactant | 2,4-bis(4-Methoxyphenyl)-1,3,2,4-dithiadiphosphetane 2,4-disulfide | 2.22 mmol, 0.90 g | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
solvent | toluene | 11.00 ml | C1(=CC=CC=C1)C | C7H8
product | 5-amino-2-(2-methoxy-ethyl)-thiazole-4-carboxylic acid ethyl ester | 0.42 g, 40% | C(C)OC(=O)C=1N=C(SC1N)CCOC | C9H14N2O3S
